datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[C@@H]1C[NH:10]C[C@H](C)[NH2+]1.Nc1nccc(-c2csc(N)[n+:21]2[H:20])n1>>C[C@@H]1C[NH+:10]([H:20])C[C@H](C)[NH2+]1.Nc1nccc(-c2csc(N)[n:21]2)n1 10=20;20,21=21",
"CCCC[NH+:21](CCC(N)=NO)[H:20].O=C(/C=C/c1cccc([N+](=O)[O-])c1)[O-:10]>>CCCC[NH:21]CCC(N)=NO.O=C(/C=C/c1cccc([N+](=O)[O-])c1)[O:10][H:20] 10=20;20,21=21",
"C1CC[NH+](CCC[N:10]2CCCC2)C1.CC(C)(/C=C/C(=O)[O:21][H:20])c1cc([N+](=O)[O-])ccc1O>>C1CC[NH+](CCC[N+:10]2([H:20])CCCC2)C1.CC(C)(/C=C/C(=O)[O-:21])c1cc([N+](=O)[O-])ccc1O 10=20;20,21=21",
"CCCCC[N+:21](CCO)(CC(C)O)[H:20].CCCC[NH+](CCCC)CC[S-:10]>>CCCCC[N:21](CCO)CC(C)O.CCCC[NH+](CCCC)CC[S:10][H:20] 10=20;20,21=21",
"CCCCc1ccc(C(=O)[O-])[n+:21]([H:20])c1.CCC[NH:10]CC(=O)[O-]>>CCCCc1ccc(C(=O)[O-])[n:21]c1.CCC[NH+:10](CC(=O)[O-])[H:20] 10=20;20,21=21",
"CC1=CC=C(S(=O)(=O)[NH:21][H:20])C=C1.CN[C@@H]1C[C@@H]1[NH:10]C>>CC1=CC=C(S(=O)(=O)[NH-:21])C=C1.CN[C@@H]1C[C@@H]1[NH+:10](C)[H:20] 10=20;20,21=21",
"N#CC(C#N)=N[N:21](c1ccc(CCCl)cc1)[H:20].[O-]C(=C1SCc2ccccc21)[O-:10]>>N#CC(C#N)=N[N-:21]c1ccc(CCCl)cc1.[O-]C(=C1SCc2ccccc21)[O:10][H:20] 10=20;20,21=21",
"COc1ccc(C2C[NH+:21]2[H:20])cc1.O=C(Cc1ccoc1)[O-:10]>>COc1ccc(C2C[NH:21]2)cc1.O=C(Cc1ccoc1)[O:10][H:20] 10=20;20,21=21",
"CC(C)[NH:10]CCC#N.Cc1c(Cl)cc2nnn([O:21][H:20])c2c1[N+](=O)[O-]>>CC(C)[NH+:10](CCC#N)[H:20].Cc1c(Cl)cc2nnn([O-:21])c2c1[N+](=O)[O-] 10=20;20,21=21",
"CC(=O)Nc1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(=O)Nc1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C)C(C(C)C)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)C(C(C)C)[NH2+:10][H:20] 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N-:10]c2cccnn2)cc1.O=C(O)c1cccc([OH+:21][H:20])c1>>Nc1ccc(S(=O)(=O)[N:10](c2cccnn2)[H:20])cc1.O=C(O)c1cccc([OH:21])c1 10=20;20,21=21",
"C[C@H](CCC[NH:10]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[C@H](CCC[NH+:10](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"Cc1ccn(-c2cccc[n+:21]2[H:20])n1.O=C1c2cc(O[C@H]3O[C@@H](C(=O)[O-:10])[C@H](O)[C@@H](O)[C@@H]3O)ccc2Oc2cccc(O)c21>>Cc1ccn(-c2cccc[n:21]2)n1.O=C1c2cc(O[C@H]3O[C@@H](C(=O)[O:10][H:20])[C@H](O)[C@@H](O)[C@@H]3O)ccc2Oc2cccc(O)c21 10=20;20,21=21",
"CC(C)([NH3+])C(C)(C)[NH2:10].c1ccc2sc(-c3ccc([NH2+:21][H:20])cc3)nc2c1>>CC(C)([NH3+])C(C)(C)[NH2+:10][H:20].c1ccc2sc(-c3ccc([NH2:21])cc3)nc2c1 10=20;20,21=21",
"C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O:21][H:20])[C@H]1CC(=O)O.c1ccc(-c2nnn[n-:10]2)cc1>>C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-:21])[C@H]1CC(=O)O.c1ccc(-c2nnn[n:10]2[H:20])cc1 10=20;20,21=21",
"C[NH:10]C(CO)CO.O=C(c1ccccc1)[N:21](Br)[H:20]>>C[NH+:10](C(CO)CO)[H:20].O=C(c1ccccc1)[N-:21]Br 10=20;20,21=21",
"C[C@H]1[C@@H](O)CC[C@@H](CCCCCCCC(=O)[O-])[NH:10]1.Cc1cc(C(=C(C#N)C#N)[O:21][H:20])cc(C)c1O>>C[C@H]1[C@@H](O)CC[C@@H](CCCCCCCC(=O)[O-])[NH+:10]1[H:20].Cc1cc(C(=C(C#N)C#N)[O-:21])cc(C)c1O 10=20;20,21=21",
"O=C([O-])CCCCCCC[NH2:10].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>O=C([O-])CCCCCCC[NH2+:10][H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Cc1ccc(CNCC[NH2:10])cc1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>Cc1ccc(CNCC[NH2+:10][H:20])cc1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(=O)c1ccc([NH2:10])cc1.Nc1ccc2n[n+:21]([H:20])c3ccccc3c2c1>>CC(=O)c1ccc([NH2+:10][H:20])cc1.Nc1ccc2n[n:21]c3ccccc3c2c1 10=20;20,21=21",
"Cc1cc(-c2cc(C)[n+:21]([H:20])[nH]2)[nH]n1.Cc1ccccc1C(c1ccccc1)=[NH:10]>>Cc1cc(-c2cc(C)[n:21][nH]2)[nH]n1.Cc1ccccc1C(c1ccccc1)=[NH+:10][H:20] 10=20;20,21=21",
"C[NH2+]CC[N+:21](C)(CC[NH2+]C)[H:20].O=C(Cn1ccc2ccccc21)[O-:10]>>C[NH2+]CC[N:21](C)CC[NH2+]C.O=C(Cn1ccc2ccccc21)[O:10][H:20] 10=20;20,21=21",
"CCOc1ccc(C(=O)[N:21](C(=S)N(CC)CC)[H:20])cc1.CCOc1cccc(C(=O)[O-:10])c1>>CCOc1ccc(C(=O)[N-:21]C(=S)N(CC)CC)cc1.CCOc1cccc(C(=O)[O:10][H:20])c1 10=20;20,21=21",
"CC(=O)Nc1ccc(S(=O)(=O)Nc2nc(C)cc[n+:21]2[H:20])cc1.CCC1=C2C(=[N:10]c3ccccc32)N(C)C(Cl)=C1>>CC(=O)Nc1ccc(S(=O)(=O)Nc2nc(C)cc[n:21]2)cc1.CCC1=C2C(=[N+:10]([H:20])c3ccccc32)N(C)C(Cl)=C1 10=20;20,21=21",
"Cc1ccc(C(C)C)c(OCC[N:10](C)C)c1.O=C([O-])CNC(=O)C[N:21](S(=O)(=O)c1ccccc1)[H:20]>>Cc1ccc(C(C)C)c(OCC[N+:10](C)(C)[H:20])c1.O=C([O-])CNC(=O)C[N-:21]S(=O)(=O)c1ccccc1 10=20;20,21=21",
"C[N+:21](C)(c1ccc(Cl)cc1)[H:20].Cc1cc(OS(=O)(=O)[O-])c2oc(C3=Cc4ccc([O-:10])cc4OC3=O)nc2c1>>C[N:21](C)c1ccc(Cl)cc1.Cc1cc(OS(=O)(=O)[O-])c2oc(C3=Cc4ccc([O:10][H:20])cc4OC3=O)nc2c1 10=20;20,21=21",
"CCCCCCCCCCCCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCCCCCCCCCCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=C1Oc2cc([O-:10])ccc2C=C1c1nc2ccccc2o1.c1ccc([S:21][H:20])[nH+]c1>>O=C1Oc2cc([O:10][H:20])ccc2C=C1c1nc2ccccc2o1.c1ccc([S-:21])[nH+]c1 10=20;20,21=21",
